US05169855
1-Benzyl-4-(4'-Fluorophenoxymethyl)piperidine
A mixture of 4 fluorophenol (6.01 g, 54 mmol), triphenylphosphine (6.87 g, 64 mmol), and 1-benzyl-4-hydroxymethylpiperidine (11.0 g, 54 mmol) in benzene (300 mL) was stirred at 10°-15° C. Diethyl azodicarboxylate (11.2 g, 10.1 mL, 64 mmol) was added dropwise. The reaction mixture was heated to reflux temperature and stirred for 24 h. The reaction mixture was cooled to ambient temperature and concentrated in vacuo. The residue was dissolved in ethyl acetate; the organic solution was washed with water three times, a 2N sodium hydroxide solution three times, dried over magnesium sulfate and filtered. Solvent was removed in vacuo to give crude product. Column chromatography (ethyl acetate:hexanes::1:1) gave, after removal of solvent, a pale yellow oil (3.88 g, 24% yield): 7.40-7.25 (m, 5H), 7.0-6.7 (m, 4H), 3.75 (d, 2H, J=4), 3.50 (s, 2H), 2.9 (br d, 2H, J=4), 2.1-1.25 (m, 7H); IR (neat): 3084(m), 3062(m), 2921(s), 2802(s), 2758(s), 1601(m), 1505(s), 1467(s), 1454(s), 1394(s); HR-MS: Calcd. for C19H22FNO: 299.1684; Found: 299.1685.

reactant | fluorophenol | 54 mmol, 6.01 g | FC1=C(C=CC=C1)O | C6H5FO
reactant | triphenylphosphine | 64 mmol, 6.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-benzyl-4-hydroxymethylpiperidine | 54 mmol, 11.0 g | C(C1=CC=CC=C1)N1CCC(CC1)CO | C13H19NO
reactant | Diethyl azodicarboxylate | 64 mmol, 10.1 mL, 11.2 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | benzene | 300 mL | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Benzyl-4-(4'-Fluorophenoxymethyl)piperidine | 3.88 g, 24% yield | C(C1=CC=CC=C1)N1CCC(CC1)COC1=CC=C(C=C1)F | C19H22FNO
